US07868036B2
b) tert-Butyl {1-(2-amino-1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate
The solution of 0.51 g of tert-butyl {1-(2-azido-1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate in 15 ml of methanol is hydrogenated in the presence of 0.11 g of 10% Pd/C over 1 hour. The reaction mixture is clarified by filtration and concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue.

reactant | tert-butyl {1-(2-azido-1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate | 0.51 g | N(=[N+]=[N-])CC(O)C(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)NC(OC(C)(C)C)=O | C27H43N5O4
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | 0.11 g | [Pd] | Pd
product | tert-Butyl {1-(2-amino-1-hydroxyethyl)-3-[3-(3-methoxypropyl)-1-methyl-1H-indol-5-ylmethyl]-4-methylpentyl}carbamate | NCC(O)C(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)C)CCCOC)NC(OC(C)(C)C)=O | C27H45N3O4
